US09399635B2
(1) Synthesis of 2-methoxy-4-(2-piperidinoethoxy)benzaldehyde
In 2.0 mL of N,N-dimethylformamide were dissolved 304 mg (2.00 mmol) of 4-hydroxy-2-methoxybenzaldehyde, 0.55 g (4.0 mmol) of potassium carbonate, and 64 mg (0.20 mmol) of tetrabutylammonium bromide. To this solution was added 0.74 g (4.0 mmol) of 1-(2-chloroethyl)piperidine hydrochloride and the mixture was stirred at 100° C. overnight. The resulting reaction mixture was diluted with ethyl acetate (100 mL), washed with water and then with saturated brine (each in an amount of 20 mL), and dried over magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/methanol=100/0 to 90/10) to give 88.9 mg (16% yield) of the title compound as a brown viscous matter.

reactant | 4-hydroxy-2-methoxybenzaldehyde | 2.00 mmol, 304 mg | OC1=CC(=C(C=O)C=C1)OC | C8H8O3
reactant | potassium carbonate | 4.0 mmol, 0.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-chloroethyl)piperidine hydrochloride | 4.0 mmol, 0.74 g | Cl.ClCCN1CCCCC1
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium bromide | 0.20 mmol, 64 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-methoxy-4-(2-piperidinoethoxy)benzaldehyde | 88.9 mg, 16% yield | COC1=C(C=O)C=CC(=C1)OCCN1CCCCC1 | C15H21NO3
